US04970218
N-(Dimethylaminopropyl)-N-(4-pyridinyl)-1H-indol-1-amine
The title compound was prepared from N-(4-pyridinyl)-1H-indol-1-amine and dimethylaminopropyl chloride with the aid of NaH in substantially the same manner as in Example 4. The product was obtained as an oil.

reactant | N-(4-pyridinyl)-1H-indol-1-amine | N1=CC=C(C=C1)NN1C=CC2=CC=CC=C12 | C13H11N3
reactant | dimethylaminopropyl chloride | CN(C)CCCCl | C5H12ClN
reactant | NaH | [H-].[Na+]
product | N-(Dimethylaminopropyl)-N-(4-pyridinyl)-1H-indol-1-amine | CN(C)CCCN(N1C=CC2=CC=CC=C12)C1=CC=NC=C1 | C18H22N4
